US04630896
A mixture of 13.0 g of 1-bromo-2-(trans-4-pentylcyclohexyl)ethane, 16.0 g of triphenylphosphine and 375 ml of xylene was heated to boiling for 60 hours. After cooling to 5° C., the precipitated product was filtered off under suction, washed with toluene and hexane and dried, there being obtained 15.0 g of 2-(trans-4-pentylcyclohexyl)ethyl-triphenylphosphonium bromide; m.p. 183°-185° C.

reactant | 1-bromo-2-(trans-4-pentylcyclohexyl)ethane | 13.0 g | BrCC[C@@H]1CC[C@H](CC1)CCCCC | C13H25Br
reactant | triphenylphosphine | 16.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | 375 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(trans-4-pentylcyclohexyl)ethyl-triphenylphosphonium bromide | 15.0 g | [Br-].C(CCCC)[C@@H]1CC[C@H](CC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C31H40P.BrH/c1-2-3-7-14-27-21-23-28(24-22-27)25-26-32(29-15-8-4-9-16-29,30-17-10-5-11-18-30)31-19-12-6-13-20-31;/h4-6,8-13,15-20,27-28H,2-3,7,14,21-26H2,1H3;1H/q+1;/p-1/t27-,28-;
